US08541595B2
Step 2, Example XV-2: 2-({5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-7-yl}oxy)-N,N-dimethylethanamine
To a solution of 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-7-ol (30 mg) in dry THF (0.5 mL) was added triphenylphosphine (27 mg), 2-dimethylaminoethanol (11 μL), then DIAD (21 μL) at room temperature. After 3 h additional triphenylphosphine (27 mg), 2-dimethylaminoethanol (11 μL), and DIAD (21 μL) were added and stirring continued. After 24 h the mixture was concentrated. The crude material was purified by preparative reversed-phase HPLC (20×150 mm Waters Sunfire, 5-50% ACN/water containing 0.1% TFA over 20 min. at 20 mL/min). Fractions containing the product were pooled then passed through Dowex 1×2-400 ion exchange resin (prewashed with 1M NaOH, H2O, MeOH) washing with MeOH. The filtrate was concentrated to give a white solid (20 mg): 1H-NMR (500 MHz, CDCl3) δ 7.73 (dd, J=2.2 and 6.1 Hz, 1 H), 7.29-7.24 (m, 3 H), 7.12 (m, 2 H), 6.93 (m, 2 H), 6.78 (dd, J=2.2 and 3.9 Hz, 1 H), 4.04-3.90 (m, 3 H), 3.40 (m, 1 H), 3.11-2.79 (m, 2 H), 2.69 (t, J=5.37 Hz, 1 H), 2.32 (s, 6 H), 2.02-1.75 (m, 2 H), 1.66-1.49 (m, 5 H), 1.16 (dd, J=6.35 and 11.96 Hz, 3 H), 0.88 (dd, J=6.32 and 27.1 Hz, 3 H); HRMS (M+H)+ calculated 507.2521. found 507.2508.

reactant | 5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-7-ol | 30 mg | ClC1=CC=C(C=C1)C1(N2C(C3=CC=C(C=C13)O)=NC=C2)CCC(=O)N2C(CCC2C)C | C25H26ClN3O2
reactant | triphenylphosphine | 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 11 μL | CN(CCO)C | C4H11NO
reactant | DIAD | 21 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 27 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-dimethylaminoethanol | 11 μL | CN(CCO)C | C4H11NO
reactant | DIAD | 21 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 2-({5-(4-chlorophenyl)-5-[3-(2,5-dimethylpyrrolidin-1-yl)-3-oxopropyl]-5H-imidazo[2,1-a]isoindol-7-yl}oxy)-N,N-dimethylethanamine | 20 mg | ClC1=CC=C(C=C1)C1(N2C(C3=CC=C(C=C13)OCCN(C)C)=NC=C2)CCC(=O)N2C(CCC2C)C | C29H35ClN4O2
